US07504408B2
1-[3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]pyrrolidin-2-one
N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazolin-4-amine (250 mg, 0.42 mmol) and 1-prop-2-yn-1-ylpyrrolidin-2-one (103 mg, 0.84 mmol) in ethyl acetate (8 ml) were cooled in ice-methanol, under an atmosphere of nitrogen, then treated with bis(triphenylphosphine) palladium(II) dichloride (30 mg, 10 mol %) followed by copper(I) iodide (8 mg, 10 mol %) and diisopropylamine (84 mg, 0.84 mmol). The reaction was allowed to warm to room temperature and stirred 46 hr. then filtered through Celite and evaporated. The residue was partitioned between dichloromethane and dilute aqueous ammonium chloride solution, the organic layer separated, dried over magnesium sulphate and evaporated then purified by chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent to give the title compound (98 mg, 40%) as a pale brown solid; NMR Spectrum:(CDCl3) 2.12 (m, 4H), 2.44 (t, 2H), 2.49 (m, 4H), 2.57 (t, 2H), 3.55 (t, 2H), 3.72 (m, 4H), 4.00 (s,3H), 4.25 (t,2H), 4.35 (s,2H), 6.08 (s,2H), 7.03 (s,1H), 7.10 (s, 1H), 7.17 (s, 1H), 7.30 (s, 1H), 8.60 (s, 1H); Mass Spectrum: M+H+ 594/596.

reactant | N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazolin-4-amine | 0.42 mmol, 250 mg | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C23H24ClIN4O5
reactant | 1-prop-2-yn-1-ylpyrrolidin-2-one | 0.84 mmol, 103 mg | C(C#C)N1C(CCC1)=O | C7H9NO
reactant | diisopropylamine | 0.84 mmol, 84 mg | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 30 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 8 mg | [Cu]I
product | 1-[3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]pyrrolidin-2-one | 98 mg, 40% | ClC=1C=C(C2=C(OCO2)C1NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#CCN1C(CCC1)=O | C30H32ClN5O6
